US09169254B2
Benzyl bromide (2.17 ml, 18.3 mmol) was added to a solution of 4-formyl-3-hydroxy-benzoic acid (1.01 g, 6.10 mmol) and potassium carbonate (3.37 g, 24.4 mmol) in DMF (10 ml), and the mixture was stirred at 50° C. for five hours. The reaction solution was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 3-benzyloxy-4-formyl-benzoic acid benzyl ester (2.01 g, 95%).

reactant | Benzyl bromide | 18.3 mmol, 2.17 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-formyl-3-hydroxy-benzoic acid | 6.10 mmol, 1.01 g | C(=O)C1=C(C=C(C(=O)O)C=C1)O | C8H6O4
reactant | potassium carbonate | 24.4 mmol, 3.37 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-benzyloxy-4-formyl-benzoic acid benzyl ester | 2.01 g, 95% | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)C=O)OCC1=CC=CC=C1)=O | C22H18O4
